US05849765
Step 2: 4-(Benzothiazol-2-yl)-1-(4-chlorobenzyl)-1,2,3,6-tetrahydropyridine
4-(Benzothiazol-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride (520 mg, 2 mmol) was reacted with 4-chlorobenzyl bromide (507 mg, 2.4 mmol) as exemplified in Example 1. The crude product was recrystallised from dichloromethane and methanol to afford the title compound as a yellow solid (410 mg, 60%); (Found: C, 66.70; H, 4.87; N, 8.16. C19H17ClN2S requires C, 66.95; H, 5.03; N, 8.22%). δH (CDCl3), 2.74 (2H, m, NCH2CH2), 2.83 (2H, m, NCH2 CH2), 3.22 (2H, m, NCH2CH2), 3.63 (2H, s, NCH2Ar), 6.67 (1H, m, NCH2CH), 7.31 (4H, s, ArH), 7.34 (1H, d of t, J 8.1Hz, J 1.2Hz, ArH), 7.44 (1H, d of t, J 7.4Hz, J 1.2Hz, ArH), 7.82 (1H, d, J 7.8Hz, ArH), 7.97 (1H, d, J 8.1Hz, ArH). m/z (ES+) 341 (M+1)+.

reactant | 4-(Benzothiazol-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride | 2 mmol, 520 mg | Cl.S1C(=NC2=C1C=CC=C2)C=2CCNCC2
reactant | 4-chlorobenzyl bromide | 2.4 mmol, 507 mg | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
product | 4-(Benzothiazol-2-yl)-1-(4-chlorobenzyl)-1,2,3,6-tetrahydropyridine | 410 mg, 60% | S1C(=NC2=C1C=CC=C2)C=2CCN(CC2)CC2=CC=C(C=C2)Cl | C19H17ClN2S
